US07977372B2
3-(4-Bromo-3-fluoro-phenyl)-acrylic acid ethyl ester
To a solution of (carbethoxymethylene)-triphenylphosphorane (4.2 g, 12 mmol) in CH2Cl2 at 10 degrees Celsius was added 4-bromo-3-fluoro-benzaldehyde (2.3 g, 11.4 mmol) dropwise over 30 minutes. This mixture was stirred for another 45 minutes at room temperature until the starting material had been consumed, and then the solvent was removed in vacuo. The crude product was purified by column chromatography (PET:EtOAc=1:1) to get desired product (2.69 g, 87%).

reactant | (carbethoxymethylene)-triphenylphosphorane | 12 mmol, 4.2 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | 4-bromo-3-fluoro-benzaldehyde | 11.4 mmol, 2.3 g | BrC1=C(C=C(C=O)C=C1)F | C7H4BrFO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(4-Bromo-3-fluoro-phenyl)-acrylic acid ethyl ester | 2.69 g, 87% | C(C)OC(C=CC1=CC(=C(C=C1)Br)F)=O | C11H10BrFO2
